### PR TITLE
[stdlib] Add properties and predicates on lists with output in Type

### PR DESCRIPTION
**Pull request by olaure01**
Add computational content to `List.v`: mainly `Type` is used instead of `Prop` as much as possible.

**Kind:** feature.

- [ ] Entry added in the changelog

### CODE REVIEW

**Comment by anton-trunov** [comment]
Hi @olaure01, I'm wondering about your use case for this new feature. Could you please expand a bit on that?

**Comment by olaure01** [comment]
This comes from the development of the [yalla](https://perso.ens-lyon.fr/olivier.laurent/yalla/) library (a library for the formalization of linear logic results in Coq).
I'll give other justifications but let me explain the path I followed in yalla.

I want to define proofs as proofs... that is not through a provability predicate:
```proof : list formula -> Type```
rather than
```proof : list formula -> Prop```
i.e. I want proofs as first-class objects, not provability.

Various reasons for that, for example:
 * it allows to define the length of a proof as a function from `proof` to `nat`;
 * it allows to extract programs from proofs (as a "deep" notion of extraction, not Coq extraction: what I want for example is to be able to define in Coq a function from proofs of 1+1 (LL formula) to `bool`);
 * it allows to define semantic interpretations of proofs.

Since I want the computational (Curry-Howard style) content of my `proof` to be meaningful I need sequents to be lists of formulas (*not* multisets for example). As a consequence I use an explicit exchange rule in the definition of the `proof` inductive which looks like:
```| ex : forall l1 l2, proof l1 -> Permutation l1 l2 -> proof l2```
but then when performing induction over `proof` to build something in `Type` (`proof` for example), the fact that `Permutation : forall A : Type, list A -> list A -> Prop` makes it impossible. I thus had to define a variant: `Permutation_Type : forall A : Type, list A -> list A -> Type` and:
```| ex : forall l1 l2, proof l1 -> Permutation_Type l1 l2 -> proof l2```

In order to do it properly, and to get appropriate lemmas for `Permutation_Type`, I started building the extension [ollibs](https://github.com/olaure01/ollibs) of the standard library (by putting in it, results independent of yalla, and which looked to me as missing in stdlib, so that I tried to stick to stdlib format). I am in the process of suggesting PRs for integration of some parts of ollibs into the standard library. This started with #11249 and #11335. I have recently submitted #11946 and this PR.

The current PR contains the move from `Prop` to `Type` for List.v, which is required in particular for the corresponding move from `Prop` to `Type` for Permutation.v (to come in next step if the current PR is merged). I also plan to submit material around the notion of cyclic permutation (aka circular shifts).
 

Another example (independent from yalla) and which is even more convincing in my opinion that things should be integrated in stdlib: let us look at #11713. `In_inv` requires decidability of equality, while one could write the analogue `In_Type_inv` based on `In_Type` (this PR) without relying on this decidability. Then one finds back `In_inv` by means of `in_Type_in` and `in_in_Type` (there requiring decidability of equality). But if `In_inv` is used in a context where `In` statements are proved explicitly (for concrete lists for example), it is probably the case that `In_Type` could be used and then the decidability hypothesis can be completely dropped (somehow information could be lost by building `In` (instead of `In_Type`) that requires decidability of equality to be reconstructed later on).


More generally, I think most of the predicates about types in `Set` like lists, should be primarily defined with output in `Type` to get maximal expressive power. It is then possible to get back `Prop` versions through `inhabited` if I am right.

I hope this clarifies the situation and gives some justifications.

**Comment by herbelin** [comment]
@olaure01 : I'd be rather in agreement with your arguments. Both the proof-irrelevant and the proof-relevant versions of `In` are useful (as well as a version to bool).

Somehow, I would however lean to add the `Type` version already in `List` rather than creating a new file. The reason is that I'm worrying that the files otherwise diverge (for instance, `Logic_Type` is not very lively). The drawback is that this makes `List` maybe more complex to enter for a newcomer. Do you think that this would be manageable/realistic to dispatch all of `ListType` in `List`?

A rather standard name for proof-relevant variants of propositions is otherwise to use the suffix `_inf` (see e.g. in `MSetList` and `ZArith`).

**Comment by olaure01** [comment]
@herbelin 
> Somehow, I would however lean to add the `Type` version already in `List` rather than creating a new file. The reason is that I'm worrying that the files otherwise diverge (for instance, `Logic_Type` is not very lively). The drawback is that this makes `List` maybe more complex to enter for a newcomer. Do you think that this would be manageable/realistic to dispatch all of `ListType` in `List`?

I was following the pattern from `Classes`: `RelationClasses`/`CRelationClasses`, `Morphisms`/`CMorphisms`, etc. but I can do a direct integration in `List` here.
Maybe the approach with two files is more natural in some situations like [`Permutation_Type`](https://github.com/olaure01/ollibs/blob/master/Permutation_Type.v) where the main inductive is duplicated and moved into `Type`.

> A rather standard name for proof-relevant variants of propositions is otherwise to use the suffix `_inf` (see e.g. in `MSetList` and `ZArith`).

OK. By curiosity, what `_inf` stands for?

**Comment by herbelin** [comment]
> I was following the pattern from Classes: RelationClasses/CRelationClasses, Morphisms/CMorphisms, etc. but I can do a direct integration in List here.
Maybe the approach with two files is more natural in some situations like Permutation_Type where the main inductive is duplicated and moved into Type.

Ah, right. Do you know why the `C` variants in `Classes` are not enough? Is it to keep some control on the generation of universe variables? Is it to have some control on extraction?

> OK. By curiosity, what _inf stands for?

Ah, if it is not obvious it is maybe not a good name. It is supposed to stand for `informative`.

**Comment by olaure01** [comment]
@herbelin 
> Do you know why the `C` variants in `Classes` are not enough? Is it to keep some control on the generation of universe variables? Is it to have some control on extraction?

Do you mean: why not removing `RelationClasses` since we have `CRelationClasses`?
If so: I don't know.
What I know is:

- not all files have their `C` variant, thus I had to create some more: [`CEqualities`](https://github.com/olaure01/ollibs/blob/master/CEqualities.v) or [`COrders`](https://github.com/olaure01/ollibs/blob/master/COrders.v)
- `relation` and `crelation` do not behave the same wrt (setoid) rewriting: #7675, #11011, and this is quite a nightmare in my developments.

**Comment by Zimmi48** [comment]
Sorry I missed that you were asking for help here. We should request involvement of maintainers of the affected projects to decide what to do. If you rebase the PR, we might also be able to use the auto-minimization feature of the bot to better understand the rewriter failure.

**Comment by olaure01** [comment]
@coqbot ci minimize

File: theories/Lists/List.v [hunk 1]
```diff
@@ -171,6 +178,14 @@ Section Facts.
     now destruct l, l'.
   Qed.
 
+  Theorem app_eq_unit_inf (x y:list A) (a:A) :
+      x ++ y = [a] -> ((x = []) * (y = [a])) + ((x = [a]) * (y = [])).
```
Comment (SkySkimmer) [inline theories/Lists/List.v:182]: You should still use `/\` when possible IMO

Comment (olaure01) [reply theories/Lists/List.v:182]: That's somehow what the extraction problems in metacoq are saying.
However in situations like this one, my first impression was that it would be strange to mix ``+`` and ``/\``. But if this happens to be a better choice for some reason, I have no immediate objection.

Comment (SkySkimmer) [reply theories/Lists/List.v:182]: It's not strange IMO
You could also use sumbool instead of sum (`{} + {}`)

**Comment by olaure01** [comment]
The ci-rewriter failure corresponds to the following minimized problem:
```coq
Fixpoint fold_right (A B :Type) (f : B -> A -> A) (a0 : A) (l:list B) : A :=
  match l with
  | nil => a0
  | cons b t => f b (fold_right A B f a0 t)
  end.

Check (0, fold_right).

Inductive Forall_inf (A:Type) (P:A->Type) : list A -> Type :=
| Forall_inf_nil : Forall_inf A P nil
| Forall_inf_cons : forall x l, P x -> Forall_inf A P l -> Forall_inf A P (x::l).

Check (0, fold_right).

Lemma Forall_inf_fold_right (A:Type) (P:A->Type) l :
  Forall_inf A P l -> fold_right _ _ (fun x => prod (P x)) True l.
Proof. induction l; simpl; intros HF; try now inversion HF; intuition. Qed.

Fail Check (0, fold_right).
(*
The command has indeed failed with message:
The term "fold_right" has type
 "forall A B : Type, (B -> A -> A) -> A -> list B -> A"
while it is expected to have type "?B"
(unable to find a well-typed instantiation for 
"?B": cannot ensure that
"Type@{max(Set,fold_right.u0+1,fold_right.u1+1)}" is a subtype
of "Type@{prod.u1}").
*)
```
It seems to be a universe problem, but I don't understand it, and don't know how to correct it.
Anyone has an idea?

**Comment by Zimmi48** [comment]
cc @coq/universes-maintainers

**Comment by SkySkimmer** [comment]
https://github.com/coq/coq/pull/14137 probably related

**Comment by olaure01** [comment]
Not sure: there does not seem to be rewriting involved.
Could it be related with `template`/`universe` polymorphism?
```coq
Definition atTrue : (Type -> Type) -> Type := fun f => f True.
Set Universe Polymorphism.
Definition prod_atTrue : atTrue (prod True) := (I, I).
Check (0, atTrue).
```
does not fail.

**Comment by SkySkimmer** [comment]
Right, you need to keep template poly stuff eta expanded,so t should be `Definition prod_atTrue : atTrue (prod True) := (I, I).` (not sure univ poly would help for the real issue without making prod univ poly)

**Comment by olaure01** [comment]
What should be done then:
- declare some objects universe polymorphic?
- remove test on `fold_right` in mit-plv/rewriter?
- remove `Forall_inf_fold_right` and `fold_right_Forall_inf` from the current PR?

I see there are some commented `Set Universe Polymorphism` in `Init.Datatypes` and `Lists.list`, what would be the consequence of putting back some of them?

**Comment by SkySkimmer** [comment]
The problem may be that forall_inf/exists_inf are not template poly due to being declared inside a section. Try moving them out of the section.

PS what does _inf mean?

**Comment by olaure01** [comment]
OK I'll try, thanks.
`_inf` is for `_informative` [apparently](https://github.com/coq/coq/pull/11966#issuecomment-618061619) (I used `_Type` previously).

**Comment by olaure01** [comment]
Template polymorphism on `Forall_inf` does not seem to be enough:
```coq
From Coq Require Import List.
Set Implicit Arguments.

Inductive Forall_inf A (P:A->Type) : list A -> Type :=
| Forall_inf_nil : Forall_inf P nil
| Forall_inf_cons : forall x l, P x -> Forall_inf P l -> Forall_inf P (x::l).

Lemma Forall_inf_fold_right A (P:A->Type) l :
  Forall_inf P l -> fold_right (fun x => prod (P x)) True l.
Proof. induction l; cbn; intros HF; now inversion HF; intuition. Qed.

Fail Check (0, fold_right).
```

**Comment by SkySkimmer** [comment]
>Right, you need to keep template poly stuff eta expanded,so t should be Definition prod_atTrue : atTrue (prod True) := (I, I). (not sure univ poly would help for the real issue without making prod univ poly)

Sorry, I forgot to actually eta expand, it's supposed to be `Definition prod_atTrue : atTrue (fun x => prod True x) := (I, I).`
and
~~~coq
Lemma Forall_inf_fold_right A (P:A->Type) l :
  Forall_inf P l -> fold_right (fun x y => prod (P x) y) True l.
~~~

**Comment by SkySkimmer** [comment]
> _inf is for _informative apparently (I used _Type previously).

It sounds too much like `infinity` IMO, maybe use `T` (like `sigT`)?

**Comment by olaure01** [comment]
@coqbot ci minimize

**Comment by Alizter** [comment]
@olaure01 Any plans to continue working on this?

**Comment by olaure01** [comment]
> @olaure01 Any plans to continue working on this?

Absolutely. I just need some time and probably some help to deal with the universe problems.
My current plan is to try it from scratch in a more incremental way to see what can be done without CI troubles. But it is really some kind of blind trial-and-error approach since I am quickly lost in non-local universe-constraints interactions.

**Comment by Alizter** [comment]
@olaure01 Ping me on Zulip when you have universe issues, perhaps I can lend a hand.
